US07071332B2
5-Bromo-3-[5-(3-diethylamino-propyl)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
A mixture of 5-bromo-2-oxindole (41 mg, 0.19 mmol), 5-(3-diethylamino-propyl)-1H-indole-2-carbaldehyde (50 mg, 0.19 mmol) and piperidine(0.1 mL) in ethanol (1 mL) was heated in a sealed tube at 95° C. for 20 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 52 mg (59%) of the title compound as a red-orange solid.

reactant | 5-bromo-2-oxindole | 0.19 mmol, 41 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-(3-diethylamino-propyl)-1H-indole-2-carbaldehyde | 0.19 mmol, 50 mg | C(C)N(CCCC=1C=C2C=C(NC2=CC1)C=O)CC | C16H22N2O
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-Bromo-3-[5-(3-diethylamino-propyl)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | 52 mg, 59% | BrC=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=C(C=C2C1)CCCN(CC)CC | C24H26BrN3O
